US07741327B2
A solution of [1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid t-butyl ester (3.2 g, 7.8 mmol) in methanol (150 mL) was treated with hydrogen chloride gas for 2 min at 0° C. and then stirred at room temperature for 1 h. After this time the mixture was concentrated in vacuo and the residue treated with acetonitrile (50 mL). The mixture was concentrated in vacuo which afforded 2-amino-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide hydrochloride (3.0 g, 100%) as a white solid.

reactant | [1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid t-butyl ester | 7.8 mmol, 3.2 g | C(C)(C)(C)OC(NC(CC1CCOCC1)C(NC1=NN(C=C1)CC(C)(C)O)=O)=O | C20H34N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | 2-amino-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide hydrochloride | 3.0 g, 100% | Cl.NC(C(=O)NC1=NN(C=C1)CC(C)(C)O)CC1CCOCC1 | InChI=1S/C15H26N4O3.ClH/c1-15(2,21)10-19-6-3-13(18-19)17-14(20)12(16)9-11-4-7-22-8-5-11;/h3,6,11-12,21H,4-5,7-10,16H2,1-2H3,(H,17,18,20);1H
